US06673803B2
Diethyl azodicarboxylate (5.91 ml, 37 mmol) was added dropwise to a stirred mixture of (E)-4-(pyrrolidin-1-yl)but-2-en-1-ol (3.97 g, 28 mmol), 4-(chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (3.0 g, 9 mmol), (prepared as described for the starting material in Example 2), and triphenylphosphine (9.84 g, 38 mmol) in methylene chloride (300 ml). The reaction mixture was stirred for 18 hours at ambient temperature. The volatiles were removed by evaporation and the residue was purified by column chromatography eluting with methylene chloride/methanol (a gradient from 80/20 to 70/30). The purified product was dissolved in methylene chloride/methanol and 1M ethereal hydrogen chloride (25 ml) was added. The precipitated product was collected by filtration, washed with ether and dried to give (E)-4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(4-(pyrrolidin-1-yl)but-2-en-1-yloxy)quinazoline hydrochloride (1.62 g, 33%).

reactant | Diethyl azodicarboxylate | 37 mmol, 5.91 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | (E)-4-(pyrrolidin-1-yl)but-2-en-1-ol | 28 mmol, 3.97 g | N1(CCCC1)C/C=C/CO | C8H15NO
reactant | 4-(chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 9 mmol, 3.0 g | ClN(C1=C(C=CC=C1)F)C1=NC=NC2=CC(=C(C=C12)OC)O | C15H11ClFN3O2
reactant | triphenylphosphine | 38 mmol, 9.84 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | (E)-4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(4-(pyrrolidin-1-yl)but-2-en-1-yloxy)quinazoline hydrochloride | 1.62 g, 33% | Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OC\C=C\CN2CCCC2)C=C1)F | InChI=1S/C23H24ClFN4O2.ClH/c1-30-21-13-17-20(14-22(21)31-11-5-4-10-29-8-2-3-9-29)26-15-27-23(17)28-19-7-6-16(24)12-18(19)25;/h4-7,12-15H,2-3,8-11H2,1H3,(H,26,27,28);1H/b5-4+;
